US05162318
In ethanol (21 ml) and concentrated hydrochloric acid (7 ml) was dissolved N-(2-amino-3,5-dibromophenyl)-N-ethoxycarbonyl-N',N'-dimethylethylenediamine (0.85 g) and the solution was refluxed for 2 hours. The reaction mixture was concentrated under reduced pressure and the residue was diluted with water. The solution was alkalized with sodium hydroxide and extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure and the residue was purified by silica gel chromatography (eluent: chloroform:methanol=10:1) to give 0.59 g of 4,6-dibromo-1,3-dihydro-1-(2-dimethylaminoethyl)-2H-benzimidazol-2-one.

reactant | N-(2-amino-3,5-dibromophenyl)-N-ethoxycarbonyl-N',N'-dimethylethylenediamine | 0.85 g | NC1=C(C=C(C=C1Br)Br)N(CCN(C)C)C(=O)OCC | C13H19Br2N3O2
solvent | ethanol | 21 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 7 ml | Cl | ClH
product | 4,6-dibromo-1,3-dihydro-1-(2-dimethylaminoethyl)-2H-benzimidazol-2-one | 0.59 g | BrC1=CC(=CC=2N(C(NC21)=O)CCN(C)C)Br | C11H13Br2N3O
